US05559133
To a stirred mixture of 10.0 g of 2-chloro-4-methoxyphenol and 2.5 g of NaOH in 50 mL of DMF add 7.0 g of α, α'-dibromo-p-xylene and stir the so-formed reaction mixture at room temperature for 4 hrs. Add 300 mL of water and filter the crude precipitated solid. Purify the crude product by re-crystallization from the methylene chloride to produce 9.12 g of 1,1'-[1,4-phenylene bis(methylenoxy)]-bis [2-chloro-4methoxybenzene] as a pure compound.

reactant | 2-chloro-4-methoxyphenol | 10.0 g | ClC1=C(C=CC(=C1)OC)O | C7H7ClO2
reactant | NaOH | 2.5 g | [OH-].[Na+]
reactant | α, α'-dibromo-p-xylene | 7.0 g | BrCC1=CC=C(C=C1)CBr | C8H8Br2
reactant | water | 300 mL | O | H2O
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1,1'-[1,4-phenylene bis(methylenoxy)]-bis [2-chloro-4methoxybenzene] | 9.12 g | C1(=CC=C(C=C1)COC1=C(C=C(C=C1)OC)Cl)COC1=C(C=C(C=C1)OC)Cl | C22H20Cl2O4
